US06664256B1
Preparation of 6-(2,4-difluorophenoxy)-3-(4-methoxyphenyl)-4-(4-pyridyl)pyridazine
In a similar manner as in Example 2, 6-chloro-3-(4-methoxyphenyl)-4-(4-pyridyl)pyridazine (150 mg, 0.504 mmol) and 2,4-difluorophenol were reacted as starting materials at 150° C. for 25 hours and post-treatment was then conducted, whereby the title compound was obtained as a pale yellow amorphous solid (157.0 mg, 79.6%).

reactant | 6-chloro-3-(4-methoxyphenyl)-4-(4-pyridyl)pyridazine | 0.504 mmol, 150 mg | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)OC)C1=CC=NC=C1 | C16H12ClN3O
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | 6-(2,4-difluorophenoxy)-3-(4-methoxyphenyl)-4-(4-pyridyl)pyridazine | FC1=C(OC2=CC(=C(N=N2)C2=CC=C(C=C2)OC)C2=CC=NC=C2)C=CC(=C1)F | C22H15F2N3O2
